US08076359B2
Step 3: tert-Butyl (3R,4S)-3-({cyclopropyl[3-{[(1R,2R)-2-(hydroxymethyl)cyclo-propyl]methoxy}-5-(3-methoxypropyl)benzyl]amino}carbonyl)-4-{4-[2-(2,6-di-chloro-4-methylphenoxy)ethoxy]phenyl}piperidine-1-carboxylate
To a solution of tert-butyl (3R,4S)-3-({cyclopropyl[3-{[(1R,2R)-2-(ethoxycarbonyl)cyclopropyl]methoxy}-5-(3-methoxypropyl)benzyl]amino}-carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]phenyl}piperidine-1-carboxylate (1 eq.) from the previous step in THF at −78° C. was added diisobutylaluminum hydride (3 eq.). The reaction was stirred at −78° C. for 1 h and then warmed to rt. EtOAc and aqueous Rochelle's salt solution were added and stirred until the two phases separated. The aqueous layer was extracted with EtOAc. The combined organic extracts were washed with brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by flash column chromatography (SiO2, 60% EtOAc in Hex) to afford the title compound as an oil.

reactant | tert-butyl (3R,4S)-3-({cyclopropyl[3-{[(1R,2R)-2-(ethoxycarbonyl)cyclopropyl]methoxy}-5-(3-methoxypropyl)benzyl]amino}-carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]phenyl}piperidine-1-carboxylate | 1 eq. | C1(CC1)N(C(=O)[C@H]1CN(CC[C@@H]1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)C(=O)OC(C)(C)C)CC1=CC(=CC(=C1)CCCOC)OC[C@H]1[C@@H](C1)C(=O)OCC | C47H60Cl2N2O9
reactant | diisobutylaluminum hydride | 3 eq. | [H-].C(C(C)C)[Al+]CC(C)C
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | tert-Butyl (3R,4S)-3-({cyclopropyl[3-{[(1R,2R)-2-(hydroxymethyl)cyclo-propyl]methoxy}-5-(3-methoxypropyl)benzyl]amino}carbonyl)-4-{4-[2-(2,6-di-chloro-4-methylphenoxy)ethoxy]phenyl}piperidine-1-carboxylate | C1(CC1)N(C(=O)[C@H]1CN(CC[C@@H]1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)C(=O)OC(C)(C)C)CC1=CC(=CC(=C1)CCCOC)OC[C@H]1[C@@H](C1)CO | C45H58Cl2N2O8
